US09228120B2
Additionally, for example when mixing 1,3-dihexyltetramethyldisilazane as the silicon compound B and trifluoroacetic anhydride as the acid B, the trifluoroacetic anhydride is rapidly reacted to form hexyldimethylsilyl trifluoroacetate as the acid A.

reactant | 1,3-dihexyltetramethyldisilazane | C(CCCCC)[Si](N[Si](CCCCCC)(C)C)(C)C | C16H39NSi2
reactant | trifluoroacetic anhydride | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
product | hexyldimethylsilyl trifluoroacetate | FC(C(=O)O[Si](C)(C)CCCCCC)(F)F | C10H19F3O2Si
